US04094877
Three portions of a mixture of concentrated nitric acid (0.6 ml. each portion) and concentrated sulfuric acid (0.66 ml. each portion) were added to a mixture of 3-(2,4-bis(dimethylamino)phenyl)-3-(4-(dimethylamino)phenyl)phthalide 4.17 g.) and concentrated sulfuric acid (20 ml.) with cooling. After each addition the temperature was allowed to rise to room temperature. The resulting mixture was poured onto ice and the resulting mixture was basified, affording 3-(2,4-bis(dimethylamino)phenyl)-3-(4-(dimethylamino)phenyl)-5 or 6-nitrophthalide (I: = Y4 = (CH3)2N, Y2 = Z4 = Z7 = H, Z5 or Z6 = O2N and the other of Z5 or Z6 = H) or a mixture of both.

reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | 3-(2,4-bis(dimethylamino)phenyl)-3-(4-(dimethylamino)phenyl)phthalide | 4.17 g | CN(C1=C(C=CC(=C1)N(C)C)C1(OC(=O)C2=CC=CC=C12)C1=CC=C(C=C1)N(C)C)C | C26H29N3O2
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 6-nitrophthalide | [N+](=O)([O-])C1=CC=C2COC(=O)C2=C1 | C8H5NO4
